US06291530B1
A solution of methyl 5-bromosalicylate (12.70 g, 55 mmol), (1-bromoethyl)benzene (7.05 mL, 50 mmol), and K2CO3 (20.73 g, 150 mmol) in acetone (250 mL) is refluxed 18 hours. The mixture is then filtered and the filtrate is concentrated in vacuo. The residue is dissolved in EtOAc (250 mL) and then washed with 1 N NaOH (2×150 mL) and brine (1×100 mL), and dried over MgSO4. Concentration in vacuo yields methyl 5-bromo-2-(1-phenylethoxy)-benzoate.

reactant | methyl 5-bromosalicylate | 55 mmol, 12.70 g | BrC1=CC=C(C(C(=O)OC)=C1)O | C8H7BrO3
reactant | (1-bromoethyl)benzene | 50 mmol, 7.05 mL | BrC(C)C1=CC=CC=C1 | C8H9Br
reactant | K2CO3 | 150 mmol, 20.73 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | methyl 5-bromo-2-(1-phenylethoxy)-benzoate | BrC=1C=CC(=C(C(=O)OC)C1)OC(C)C1=CC=CC=C1 | C16H15BrO3
